US08980911B2
Trifluoroacetic acid (1.5 mL) was added drop wise to an ice-cooled suspension of benzyl 3-chloro-4-[(2,4,4-trimethylpentan-2-yl)amino]-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (610 mg) in dichloromethane (10 mL). The reaction mixture was stirred at room temperature for about 4 hours. Upon completion, the reaction mixture was concentrated under vacuum and the residue was stirred in excess aqueous ammonia solution. The precipitated solid was filtered under suction, washed with water and dried to afford benzyl 4-amino-3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (354.8 mg, 95%) as an off-white solid.

reactant | Trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl 3-chloro-4-[(2,4,4-trimethylpentan-2-yl)amino]-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 610 mg | ClC1=CN(C2=C1C(=NC=C2)NC(C)(CC(C)(C)C)C)C(=O)OCC2=CC=CC=C2 | C23H28ClN3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | benzyl 4-amino-3-chloro-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 354.8 mg, 95% | NC1=NC=CC2=C1C(=CN2C(=O)OCC2=CC=CC=C2)Cl | C15H12ClN3O2
